US07417028B2
4. 5-(Bromomethyl)-2-o-tolylpyridine hydrobromide
A solution of 4.49 g (22.5 mmol) of (6-o-tolylpyridin-3-yl)methanol in 75 mL of 48% hydrobromic acid was heated to reflux for 64 h. The reaction mixture was partially cooled and excess hydrobromic acid was removed by vacuum distillation (110° C. @ 2 Torr) until a tan solid residue remained in the flask. Distillation was carried out using a large KOH pellet trap placed between the distillation apparatus and the vacuum pump. The solid residue was slurried in diethyl ether, filtered and dried under a nitrogen stream to give 7.38 g of product, 95% yield.

reactant | (6-o-tolylpyridin-3-yl)methanol | 22.5 mmol, 4.49 g | C1(=C(C=CC=C1)C1=CC=C(C=N1)CO)C | C13H13NO
reactant | hydrobromic acid | 75 mL | Br | BrH
product | 5-(Bromomethyl)-2-o-tolylpyridine hydrobromide | 7.38 g, 95% yield | Br.BrCC=1C=CC(=NC1)C1=C(C=CC=C1)C | InChI=1S/C13H12BrN.BrH/c1-10-4-2-3-5-12(10)13-7-6-11(8-14)9-15-13;/h2-7,9H,8H2,1H3;1H
